US07238720B2
b) 3-(3,5-Dimethylisoxazol-4-yl)thio-1H-1,2,4-triazole
A mixture of 3-(2,4-pentanedion-3-yl)thio-1H-1,2,4-triazole (2 g), hydroxylamine hydrochloride (0.7 g), triethylamine (1.4 ml) and ethanol (10 ml) was heated and stirred for 5 hours on an oil bath at 100° C. The reaction solution was concentrated under reduced pressure, and then extracted with ethyl acetate-water. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to a silica-gel column chromatography with 10 to 30% (20% 2-propanol/ethyl acetate)/hexane, followed by recrystallization in ethyl acetate-hexane to yield the title compound (440 mg).

reactant | 3-(2,4-pentanedion-3-yl)thio-1H-1,2,4-triazole | 2 g | CC(C(C(C)=O)SC1=NNC=N1)=O | C7H9N3O2S
reactant | hydroxylamine hydrochloride | 0.7 g | Cl.NO
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(3,5-Dimethylisoxazol-4-yl)thio-1H-1,2,4-triazole | 440 mg | CC1=NOC(=C1SC1=NNC=N1)C | C7H8N4OS
